US08476434B2
2,6-Dimethyl-3-nitrobenzenamine (10.4 g, 62.6 mmol) was dissolved in 75% sulfuric acid (200 ml). Mixture cooled to 0° C. and treated with a solution of sodium nitrite (4.53 g, 65.7 mmol) in concentrated sulfuric acid (25.0 ml). After the mixture had been stirred for 1 hour at this temperature, water (200 ml) was added and the mixture warmed to 60° C. until the evolution of gas ceased. The mixture was allowed to cool to room temperature and then filtered to afford 2,6-dimethyl-3-nitrophenol. MS m/z=168 (M+H)+. Calc'd for C8H9NO3: 169.18.

reactant | 2,6-Dimethyl-3-nitrobenzenamine | 62.6 mmol, 10.4 g | CC1=C(C(=CC=C1[N+](=O)[O-])C)N | C8H10N2O2
reactant | sodium nitrite | 65.7 mmol, 4.53 g | N(=O)[O-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 25.0 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dimethyl-3-nitrophenol | CC1=C(C(=CC=C1[N+](=O)[O-])C)O | C8H9NO3
